US07902218B2
Step D (1): (3-(3,5-difluorophenyl)propanoic acid
To palladium on activated charcoal (10 wt %, 2.5 g) was added a solution of (E)-3-(3,5-difluorophenyl)acrylic acid (25 g) in a mixture of ethyl acetate (100 mL) and ethyl alcohol (400 mL). The mixture was put on hydrogenator on 50 psi for 6 h. The catalyst was filtered and the solvent was removed to give 25.0 g the title compound (99% yield): 1H NMR (CDCl3, 500 MHz) δ 2.67 (2H, t, J=10 Hz), 2.93 (2H, t, J=10 Hz), 6.65 (1H, m), 6.72 (2H, m).

reactant | (E)-3-(3,5-difluorophenyl)acrylic acid | 25 g | FC=1C=C(C=C(C1)F)/C=C/C(=O)O | C9H6F2O2
catalyst | palladium on activated charcoal | 2.5 g | [Pd] | Pd
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl alcohol | 400 mL | C(C)O | C2H6O
product | 3-(3,5-difluorophenyl)propanoic acid | 25.0 g, 99% yield | FC=1C=C(C=C(C1)F)CCC(=O)O | C9H8F2O2
